US08609656B2
Preparation of [9-(4-aminophenyl)-9H-purin-6-yl]-amine
In 1,000 mL of methanol, 13.1 g (51 mmol) of [9-(4-nitrophenyl)-9H-purin-6-yl]amine was suspended, and 1.0 g of 10% palladium carbon was added thereto and the mixture suspension was stirred at 60° C. for 22 hours in a hydrogen atmosphere. The palladium carbon was removed by Celite filtration and the filtrate was washed with 3 L of hot methanol. The methanol solution was concentrated under reduced pressure and the formed product was purified by a silica gel column (ethyl acetate:methanol=8:1) to obtain 10.29 g (89%) of a target product as a pale yellow solid.

reactant | [9-(4-nitrophenyl)-9H-purin-6-yl]amine | 51 mmol, 13.1 g | [N+](=O)([O-])C1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)N | C11H8N6O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1,000 mL | CO | CH4O
catalyst | palladium carbon | 1.0 g | [C].[Pd]
product | [9-(4-aminophenyl)-9H-purin-6-yl]-amine | 10.29 g, 89% | NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)N | C11H10N6
